US07592373B2
4.271.a. 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-3,5-dimethylpiperidine
Prepared analogously to Example 1.1.c. from 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene and 3,5-dimethylpiperidine. Yield: 0.4 g (48.1% of theory); C16H24N2O4 (M=308.38); calc.: molecular ion peak (M+H)+: 309; found: molecular ion peak (M+H)+: 309; Rf value: 0.5 (silica gel, dichloromethane/methanol (9:1)).

reactant | 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
reactant | 3,5-dimethylpiperidine | CC1CNCC(C1)C | C7H15N
solvent | dichloromethane methanol | ClCCl.CO
product | 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-3,5-dimethylpiperidine | COC1=C(OCCN2CC(CC(C2)C)C)C=CC(=C1)[N+](=O)[O-] | C16H24N2O4
